US08735414B2
1-cyclobutyl-6-methoxy-1H-indole-3-carbonitrile (100 g, 442 mmol) was dissolved in CH2Cl2 (700 mL) and cooled to −20° C. Boron tribromide (300 g, 1.2 mol) was added dropwise over 2.5 hours to the cooled solution. The reaction was poured into ice water (2 L), neutralized to pH 7 with 5 N aq. sodium hydroxide and stirred overnight at room temperature. The remaining organic solvent was evaporated and the resulting suspension was filtered. The solid was washed with water (2×200 mL), 1/1 hexane/ethyl ether (2×125 mL) and dried in a stream of nitrogen to give 1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile as a beige powder (90.0 g, 96%).

reactant | 1-cyclobutyl-6-methoxy-1H-indole-3-carbonitrile | 442 mmol, 100 g | C1(CCC1)N1C=C(C2=CC=C(C=C12)OC)C#N | C14H14N2O
reactant | Boron tribromide | 1.2 mol, 300 g | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | CH2Cl2 | 700 mL | C(Cl)Cl | CH2Cl2
product | 1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile | 90.0 g, 96% | C1(CCC1)N1C=C(C2=CC=C(C=C12)O)C#N | C13H12N2O
